US04036977
N-(2-Butynyl)-N-methyl-p-(1-adamantyloxy)aniline
A mixture of 2.0 g. (0.0079 mole) of N-methyl-p-(1-adamantyloxyl)aniline, 1.07 g. K2CO3 and 1.03 g. of 1-bromo-2-butyne in 10 ml. DMF and 40 ml. C6H6 was heated at reflux for 17 hours. The mixture was allowed to cool and washed well with H2O and brine. The gum which remained when the organic layer was taken to dryness was dissolved in Et2O. The solid which precipitated on addition of HCl in Et2O was recrystallized from CH2Cl2 :EtOAc. There was obtained 2.09 g. (77%) of N-(2-butynyl)-N-methyl-p-(1-adamontyloxy)aniline, m.p. 180°-181°.

reactant | N-methyl-p-(1-adamantyloxyl)aniline | 0.0079 mole | CNC1=CC=C(C=C1)OC12CC3CC(CC(C1)C3)C2 | C17H23NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-butyne | BrCC#CC | C4H5Br
reactant | DMF | CN(C)C=O | C3H7NO
solvent | C6H6 | C1=CC=CC=C1 | C6H6
product | N-(2-Butynyl)-N-methyl-p-(1-adamantyloxy)aniline | C(C#CC)N(C1=CC=C(C=C1)OC12CC3CC(CC(C1)C3)C2)C | C21H27NO
